US08535655B2
a) Dichloro((1R,2S,5R)-2-isopropyl-5-methylcyclohexyloxy)phosphine
The phosphorus trichloride (56.0 ml, 87.89 g, 0.640 mol) was added to dichloromethane (anhydrous) under argon gas to obtain a solution. The solution was cooled to −30° C. and (−)-menthol (1R,2S,5R) (10.00 g, 0.0640 mol) was added portion wise over 10 mins. The solution was allowed to warm to ambient temperature and was allowed to stir at ambient temperature for 16 hours. The solvent was removed in vacuo to obtain a colourless oil (16.46 g). The crude product was used directly in the subsequent step.

reactant | phosphorus trichloride | 0.640 mol, 56.0 ml, 87.89 g | P(Cl)(Cl)Cl | Cl3P
reactant | (−)-menthol | 0.0640 mol, 10.00 g | C1(CC(C(CC1)C(C)C)O)C | C10H20O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Dichloro((1R,2S,5R)-2-isopropyl-5-methylcyclohexyloxy)phosphine | 16.46 g | ClP(O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)Cl | C10H19Cl2OP
